US04259510
3-Fluorobenzamide
Into a stirred solution of m-fluorobenzoyl chloride (15.9 g, 0.10 mole) in benzene (200 ml) at 5° C. is bubbled anhydrous ammonia gas for 30 minutes. A white solid precipitates and the reaction mixture is allowed to stir at room temperature overnight. The white solid is removed by filtration and then triturated with water. The solid is dried to afford 10 g of m-fluoroenzamide, mp 130°-33° C. Elemental analysis calculated. for C7H6FNO: C, 60.40; H, 4.34; F, 13.66; N, 10.08. Found: C, 59.97; H, 4.43; F, 13.86; N, 10.39.

reactant | m-fluorobenzoyl chloride | 0.10 mole, 15.9 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | ammonia | N | H3N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-Fluorobenzamide | FC=1C=C(C(=O)N)C=CC1 | C7H6FNO
